US04859692
Zinc dust (0.065 g.) was added to a stirred mixture of methyl 4-(3-benzyloxy-6-nitroindazol-1-ylmethyl)-3-methoxybenzoate (CC) (0.043 g.) and acetic acid (0.9 ml.). The mixture was stirred for 2 hours, diluted with ether, and filtered. The filtrate was washed with water, brine, dried (MgSO4), and evaporated to give methyl 4-(6-amino-3-benzyloxyindazol-1-ylmethyl)-3-methoxybenzoate (DD) (0.034 g., 85%) as a brown oil, and was used without further purification as described below.

reactant | methyl 4-(3-benzyloxy-6-nitroindazol-1-ylmethyl)-3-methoxybenzoate | 0.043 g | C(C1=CC=CC=C1)OC1=NN(C2=CC(=CC=C12)[N+](=O)[O-])CC1=C(C=C(C(=O)OC)C=C1)OC | C24H21N3O6
reactant | acetic acid | 0.9 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
catalyst | Zinc | 0.065 g | [Zn] | Zn
product | methyl 4-(6-amino-3-benzyloxyindazol-1-ylmethyl)-3-methoxybenzoate | 0.034 g, 85% | NC1=CC=C2C(=NN(C2=C1)CC1=C(C=C(C(=O)OC)C=C1)OC)OCC1=CC=CC=C1 | C24H23N3O4
